US09340506B2
Synthesis of Cyclopropylsulfanylbenzene
To a stirred suspension of potassium tert-butoxide (52.4 g, 467 mmol) in DMSO (200 mL) was added thiophenol (42.9 g, 389 mmol) at 0° C. and stirred for 30 minutes at 20-25° C., followed by addition of bromocyclopropane (37.3 mL, 467 mmol). The reaction mixture was heated to 60° C. and continued to stir for 24 hours at the same temperature (with cold water circulation in the condenser). Reaction monitoring was done by TLC showed completion of reaction. The reaction mixture was then cooled to 20-25° C., added water (800 mL) then extracted with diethyl ether (3×400 mL). Diethyl ether layer was washed with water (500 mL) then with brine (150 mL) and dried over anhydrous sodium sulfate (75 g). Sodium sulfate was filtered and wash with diethyl ether (50 mL), solvent was removed under reduced pressure using rotavapour (bath temperature 30-35° C.) to get the required oily product which was dried under vacuum for 30 minutes. The crude material was used for the next step with out any purification.

reactant | potassium tert-butoxide | 467 mmol, 52.4 g | CC(C)([O-])C.[K+]
reactant | thiophenol | 389 mmol, 42.9 g | C1(=CC=CC=C1)S | C6H6S
reactant | bromocyclopropane | 467 mmol, 37.3 mL | BrC1CC1 | C3H5Br
reactant | water | O | H2O
reactant | water | 800 mL | O | H2O
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | Cyclopropylsulfanylbenzene | C1(CC1)SC1=CC=CC=C1 | C9H10S
